US09340538B2
Step C: 4-((5-(ethoxycarbonyl)-2-(thiazol-2-yl)-6-(2-(trifluoromethyl)phenyl)-3,6-dihydropyrimidin-4-yl)methyl)morpholine-3-carboxylic acid
A mixture of ethyl 6-(bromomethyl)-2-(thiazol-2-yl)-4-(2-(trifluoromethyl)phenyl)-1,4-dihydropyrimidine-5-carboxylate (3.8 g, 8 mmol), morpholine-3-carboxylic acid hydrochloride (2.62 g, 16 mmol) and potassium carbonate (4.2 g, 30 mmol) in ethanol (130 mL) was stirred at 25° C. for 12 hours. The resulting mixture was filtered and the filtrate was concentrated in vacuo. The residue was purified by a silica gel column chromatography (DCM/MeOH (V/V)=30/1) to give the title compound as a yellow solid (2.1 g, 50%). The compound was characterized by the following spectroscopic data:

reactant | ethyl 6-(bromomethyl)-2-(thiazol-2-yl)-4-(2-(trifluoromethyl)phenyl)-1,4-dihydropyrimidine-5-carboxylate | 8 mmol, 3.8 g | BrCC1=C(C(N=C(N1)C=1SC=CN1)C1=C(C=CC=C1)C(F)(F)F)C(=O)OCC | C18H15BrF3N3O2S
reactant | morpholine-3-carboxylic acid hydrochloride | 16 mmol, 2.62 g | Cl.N1C(COCC1)C(=O)O
reactant | potassium carbonate | 30 mmol, 4.2 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 130 mL | C(C)O | C2H6O
product | 4-((5-(ethoxycarbonyl)-2-(thiazol-2-yl)-6-(2-(trifluoromethyl)phenyl)-3,6-dihydropyrimidin-4-yl)methyl)morpholine-3-carboxylic acid | 2.1 g, 50% | C(C)OC(=O)C1=C(NC(=NC1C1=C(C=CC=C1)C(F)(F)F)C=1SC=CN1)CN1C(COCC1)C(=O)O | C23H23F3N4O5S
